US08022062B2
(±)-2-(1-Chloroethyl)-6-methylpyridine hydrochloride:
To the crude 2-(1-hydroxyethyl)-6-methylpyridine (1.6 g, 11.7 mmol) in dry DCM (15 mL) add with stirring thionyl chloride (2.0 mL, 27 mmol) and continue stirring overnight Concentrate in vacuo, azeotrope three times with dry chloroform and dry under high vacuum to provide the title compound as a tan solid (1.9 g, 85%). MS (APCI+) m/z 156 (M+H)+.

reactant | 2-(1-hydroxyethyl)-6-methylpyridine | 11.7 mmol, 1.6 g | OC(C)C1=NC(=CC=C1)C | C8H11NO
reactant | thionyl chloride | 27 mmol, 2.0 mL | S(=O)(Cl)Cl | Cl2OS
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | (±)-2-(1-Chloroethyl)-6-methylpyridine hydrochloride | 1.9 g, 85% | Cl.ClC(C)C1=NC(=CC=C1)C | InChI=1S/C8H10ClN.ClH/c1-6-4-3-5-8(10-6)7(2)9;/h3-5,7H,1-2H3;1H
